US07745476B2
Part B: To a stirred solution of 1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamidine.HCl (1.87 gram, 5 mmol) and 4-fluorophenylsulfonyl chloride (0.97 g, 5 mmol) in anhydrous acetonitrile (20 ml) is added triethylamine (2.1 ml, 15 mmol) and the resulting mixture is stirred at room temperature for 16 hours. After concentration in vacuo, the residue is dissolved in a mixture of Ethyl acetate and water. The Ethyl acetate layer is collected, dried over MgSO4, filtered and concentrated in vacuo. The resulting residue is recrystallised from methyl-t-butyl ether to give N-[(4-fluorophenyl)sulfonyl]-1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamidine (1.22 gram, 54% yield). Melting point: 200-203.5° C.

reactant | 1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamidine | ClC1=CC=C(C=C1)N1N=C(CC1C1=CC=CC=C1)C(=N)N | C16H15ClN4
reactant | HCl | 5 mmol, 1.87 gram | Cl | ClH
reactant | 4-fluorophenylsulfonyl chloride | 5 mmol, 0.97 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[(4-fluorophenyl)sulfonyl]-1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamidine | 1.22 gram, 54% yield | FC1=CC=C(C=C1)S(=O)(=O)NC(=N)C1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H18ClFN4O2S
